US05728686
a) 5-(Diethylphosphono)pentyl acetate
100.34 g (0.48 mol) of 5-bromopentyl acetate were heated at 150° C. for 8 hours with 79.8 g (0.048 mol) of triethyl phosphite while stirring and passing in nitrogen. The mixture was then fractionally distilled under reduced pressure.

reactant | 5-bromopentyl acetate | 0.48 mol, 100.34 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | triethyl phosphite | 0.048 mol, 79.8 g | P(OCC)(OCC)OCC | C6H15O3P
product | 5-(Diethylphosphono)pentyl acetate | C(C)(=O)OCCCCCP(=O)(OCC)OCC | C11H23O5P
